US07115611B2
In analogy to the procedures described in example 101A], 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) was reacted with chlorosulfurous acid 2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethyl ester (example 111F]) to give 2-methyl-2-{2-methyl-4-[2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethoxy]-phenoxy}-propionic acid ethyl ester, which was subsequently saponified in analogy to the procedure described in example 101B] to yield the title compound as a white powder of mp. 153.5–154.5° C.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | chlorosulfurous acid 2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethyl ester | FC(OC1=CC=C(C=C1)C1=NC=C(C(=N1)C(F)(F)F)COS(=O)Cl)(F)F | C13H7ClF6N2O3S
product | 2-methyl-2-{2-methyl-4-[2-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidin-5-ylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)OC(F)(F)F)C(F)(F)F)C)C)=O | C26H24F6N2O5
